US03950376
By replacing in Example 47 4-phenoxy-5-sulfamyl-3-(3-thienylmethylthio)benzoic acid for 3-n-butylthio-4-phenoxy-5-sulfamylbenzoic acid and following the procedure described, methyl 4-phenoxy-5-sulfamyl-3-(3-thienylmethylthio)benzoate is obtained with a melting point of 148°-149° C.

reactant | 4-phenoxy-5-sulfamyl-3-(3-thienylmethylthio)benzoic acid | O(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)SCC1=CSC=C1 | C18H15NO5S3
reactant | 3-n-butylthio-4-phenoxy-5-sulfamylbenzoic acid | C(CCC)SC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H19NO5S2
product | methyl 4-phenoxy-5-sulfamyl-3-(3-thienylmethylthio)benzoate | O(C1=CC=CC=C1)C1=C(C=C(C(=O)OC)C=C1S(N)(=O)=O)SCC1=CSC=C1 | C19H17NO5S3
